US06653477B2
1. 6,8-Dibromo-2,3-dimethylimidazo[1,2-a]pyridine
A mixture of 31.8 g of 2-amino-3,5-dibromopyridine, 22 g of 3-bromo-2-butanone and 350 ml of tetrahydrofuran is heated to reflux for 9 days, and the precipitate formed is filtered off and dried in vacuo is then suspended in 1 l of water and the suspension is adjusted to pH 8 using 6 molar aqueous sodium hydroxide solution. The precipitate formed here is filtered off and washed with water. 28 g of the title compound of melting point over 90° C. (sintering) are obtained.

reactant | 2-amino-3,5-dibromopyridine | 31.8 g | NC1=NC=C(C=C1Br)Br | C5H4Br2N2
reactant | 3-bromo-2-butanone | 22 g | BrC(C(C)=O)C | C4H7BrO
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
product | 6,8-Dibromo-2,3-dimethylimidazo[1,2-a]pyridine | BrC=1C=C(C=2N(C1)C(=C(N2)C)C)Br | C9H8Br2N2
